US07196111B2
A mixture of 3.0 g (23.8 mmol) of cyclohexyl methyl ketone and 4.56 g (26.2 mmol) of t-butoxybis(dimethylamino)methane (Bredereck's reagent) was stirred at 60° C. overnight. The reaction mixture was then concentrated to give 4.0 g (93% yield) of 1-cyclohexyl-3-dimethylamino-propenone as an orange oil as indicated by 1H NMR. This product was used in the next reaction without any further purification.

reactant | cyclohexyl methyl ketone | 23.8 mmol, 3.0 g | CC(=O)C1CCCCC1 | C8H14O
reactant | t-butoxybis(dimethylamino)methane | 26.2 mmol, 4.56 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 1-cyclohexyl-3-dimethylamino-propenone | 4.0 g, 93% yield | CN(C)C(=O)/C=C/C1CCCCC1 | C11H19NO
